US07435837B2
Treatment of (±)-[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.68 g, 4.22 mmol) with sodium azide (1.09 g, 16.88 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.107 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.95 g (81%) of (±)-1-[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 200-202° C., Anal. calcd. for C15H14FNOHCl: C, 64.4; H, 5.4; N, 5.01. Found: C, 63.93; H, 5.48; N, 4.73.

reactant | (±)-[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 4.22 mmol, 1.68 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)F | C22H19FO4S
reactant | sodium azide | 16.88 mmol, 1.09 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)F | C15H12FN3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.107 g | [Pd] | Pd
product | (±)-1-[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.95 g, 81% | FC=1C=C(C=CC1)C1=CC=CC=2CC(OC21)CN | C15H14FNO
